US07009052B2
2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonic acid phenylamide
Following the same procedure as Example 1, condensation of 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride (Preparation 3, 50 mg, 160 μmol) with PhNH2 (15 μL, 168 μmol), employing pyridine (14 μL, 168 μmol) as base, gave the title compound (11 mg, 17%): δH ((CD3)2SO)=7.00 (s, 1H), 7.05–7.10 (m, 3H), 7.20 (m, 2H), 7.50 (d, 1H), 7.90 (dd, 1H), 8.00 (d, 1H); m/z (ES+)=369.1 [M+H]+.

reactant | 2-oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride | 160 μmol, 50 mg | O=C1NC2=CC=C(C=C2C(=C1)C(F)(F)F)S(=O)(=O)Cl | C10H5ClF3NO3S
reactant | PhNH2 | 168 μmol, 15 μL | C1(=CC=CC=C1)N | C6H7N
reactant | pyridine | 168 μmol, 14 μL | N1=CC=CC=C1 | C5H5N
product | 2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonic acid phenylamide | 11 mg, 17% | C1(=CC=CC=C1)NS(=O)(=O)C=1C=C2C(=CC(NC2=CC1)=O)C(F)(F)F | C16H11F3N2O3S
